US05180742
A 3.1 ml (5.0 mmole) portion of n-butyllithium.hexane solution was added dropwise to 1.35 g (5.0 mmole) of 1-benzyl-2,5-dimethoxy-3,4,6-trimethylbenzene and 0.83 ml (5×1.1 mmole) of 1,1,2,2-tetramethylethylenediamine dissolved in anhydrous tetrahydrofuran (15 ml), under an atmosphere of argon at 50° C. over the period of 5 miniutes, followed by stirring at 50° to 55° C. for 25 minutes. Then, a solution of 0.83 g (5.0 mmole) of n-hexyl bromide in tetrahydrofuran (5 ml) was added dropwise to the mixed solution over the period of 5 minutes, followed by stirring at 50° C. for further 10 minutes. The reaction solution was cooled with ice and made acid by adding a 10% aqueous phosphoric acid solution, and the product was extracted with isopropyl ether. The organic layer was separated out, washed with aqueous sodium chloride solution, dried (magnesium sulfate) and evaporated. The residual solution was chromatographed on a silica gel column to effect purification (elution with hexane/isopropyl ether) to thereby give 1.37 g (77%) of 7-(2,5-dimethoxy-3,4,6-trimethylphenyl)-7-phenylheptane. Its typical physical properties and nuclear magnetic resonance specrum data are shown in Table 14.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-benzyl-2,5-dimethoxy-3,4,6-trimethylbenzene | 5.0 mmole, 1.35 g | C(C1=CC=CC=C1)C1=C(C(=C(C(=C1C)OC)C)C)OC | C18H22O2
reactant | 1,1,2,2-tetramethylethylenediamine | 1.1 mmole, 0.83 ml | CC(C(N)(C)C)(N)C | C6H16N2
reactant | n-hexyl bromide | 5.0 mmole, 0.83 g | C(CCCCC)Br | C6H13Br
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 7-(2,5-dimethoxy-3,4,6-trimethylphenyl)-7-phenylheptane | 1.37 g, 77% | COC1=C(C(=C(C(=C1C)C)OC)C)C(CCCCCC)C1=CC=CC=C1 | C24H34O2
